US05272163
N-[4-(2-Pyrimidinylsulfonyl)phenyl]-3,3-difluoro-2-hydroxy-2-difluoromethyl propionamide
To a solution of 2,2-bis-difluoromethyl-2-hydroxyacetic acid (0.5 g, 2.84 mmoles) in dimethyl acetamide (10 ml) at -10° C. was added thionyl chloride (0.34 g, 2.84 mmole)s) dropwise. The resulting solution was stirred at -10° C. for approximately 30 mins. 4-(2-pyrimidylsulfonyl)aniline (0.59 g, 2.5 mmoles) was added and the reaction mixture was stirred overnight at room temperature. The reaction mixture was poured into water, and sodium bicarbonate solution was added to give a pH of 7-7.5. A dark colored precipitate was formed that was filtered, washed with water and dried. The crude material was preabsorbed onto silica gel and chromatographed on silica gel eluting with 70-80% ethyl/acetate/hexane. Evaporation of product-containing fractions and crystallization from methylene chloride/methanol/hexane gave the title compound (0.33 g, 34%) as a white solid; mp 209°-210° C. 1H--NMR (300 MHz, d6 --DMSO):6.46(t, J=54.06 Hz, 2H, HCF 2), 7.78 (t, J=4.8 Hz, 1H, ArH), 7.95-7.98(m, 3H, ArH, OH), 8.02-8.06(m, 2H, ArH), 9.01 (d, J=5.01 Hz, 2H, ArH), 10.58 (s, 1H, NH). MS(CI):394(M+1, 100%).

reactant | 2,2-bis-difluoromethyl-2-hydroxyacetic acid | 2.84 mmoles, 0.5 g | FC(C(C(=O)O)(O)C(F)F)F | C4H4F4O3
reactant | thionyl chloride | 2.84 mmole, 0.34 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(2-pyrimidylsulfonyl)aniline | 2.5 mmoles, 0.59 g | N1=C(N=CC=C1)S(=O)(=O)C1=CC=C(N)C=C1 | C10H9N3O2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethyl acetamide | 10 ml | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | N-[4-(2-Pyrimidinylsulfonyl)phenyl]-3,3-difluoro-2-hydroxy-2-difluoromethyl propionamide | 0.33 g, 34% | N1=C(N=CC=C1)S(=O)(=O)C1=CC=C(C=C1)NC(C(C(F)F)(C(F)F)O)=O | C14H11F4N3O4S
